US07521462B2
Add sodium triacetoxyborohydride (1.70 g, 8.02 mmol) to a stirred solution of 4-amino-piperidine-1-carboxylic acid tert-butyl ester (1.0124 g, 5.06 mmol), 2,4-dichloro-thiazole-5-carbaldehyde (1.0113 g, 5.56 mmol), glacial acetic acid (0.31 mL, 5.42 mmol), and 1,2-dichloroethane (40 mL). Stir for 18 hours under nitrogen at room temperature. Pour the reaction into 2N NaOH (100 mL) and extract with ethyl acetate (3×100 mL). Dry the ethyl acetate over sodium sulfate and then filter off the sodium sulfate. Concentrate on a rotary evaporator and purify the crude product by flash chromatography on silica gel eluting with 35% ethyl acetate/hexanes then with 100% ethyl acetate to yield 1.1547 g (62%) of 4-{[(2,4-dichloro-thiazol-5-yl)methyl]-amino}-piperidine-1-carboxylic acid tert-butyl ester: mass spectrum (ion spray): m/z=366.1 (M+1); 1H NMR (CDCl3): δ=4.04 (br s, 2H), 3.96 (s, 2H), 2.87-2.81 (m, 2H), 2.72-2.65 (m, 1H), 1.90-1.86 (m, 2H), 1.48-1.39 (m, 10H), 1.33-1.23 (m, 2H).

reactant | sodium triacetoxyborohydride | 8.02 mmol, 1.70 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 4-amino-piperidine-1-carboxylic acid tert-butyl ester | 5.06 mmol, 1.0124 g | C(C)(C)(C)OC(=O)N1CCC(CC1)N | C10H20N2O2
reactant | 2,4-dichloro-thiazole-5-carbaldehyde | 5.56 mmol, 1.0113 g | ClC=1SC(=C(N1)Cl)C=O | C4HCl2NOS
reactant | acetic acid | 5.42 mmol, 0.31 mL | C(C)(=O)O | C2H4O2
reactant | NaOH | 2N, 100 mL | [OH-].[Na+]
solvent | 1,2-dichloroethane | 40 mL | ClCCCl | C2H4Cl2
product | 4-{[(2,4-dichloro-thiazol-5-yl)methyl]-amino}-piperidine-1-carboxylic acid tert-butyl ester | 1.1547 g, 62% | C(C)(C)(C)OC(=O)N1CCC(CC1)NCC1=C(N=C(S1)Cl)Cl | C14H21Cl2N3O2S
